US04123250
Preparation of N-(1-methylbutyl)-4-(methylsulfonyl)-2,6-dinitro-m-toluidine
A mixture of 3-chloro-6-(methylsulfonyl)-2,4-dinitrotoluene (10.0 g., 0.034 mole) and 2-aminopentane (6.1 g. 0.07 mole) is refluxed in benzene (75 ml.) for 4 hours. After standing overnight, the mixture is successively washed with dilute hydrochloric acid, water, a 5% aqueous potassium carbonate solution and finally water. The mixture is then dried over magnesium sulfate. Removal of the magnesium sulfate and solvent leaves the desired product as a yellow oil which readily crystallized on cooling. The crude product is recrystallized from ethanol to give 9.5 grams with m.p. 85°-88° C.

reactant | 3-chloro-6-(methylsulfonyl)-2,4-dinitrotoluene | 0.034 mole, 10.0 g | ClC=1C(=C(C(=CC1[N+](=O)[O-])S(=O)(=O)C)C)[N+](=O)[O-] | C8H7ClN2O6S
reactant | 2-aminopentane | 0.07 mole, 6.1 g | NC(C)CCC | C5H13N
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | N-(1-methylbutyl)-4-(methylsulfonyl)-2,6-dinitro-m-toluidine | CC(CCC)NC1=C(C(=C(C=C1[N+](=O)[O-])S(=O)(=O)C)C)[N+](=O)[O-] | C13H19N3O6S
